US04891372
7-Amino-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine
A solution of 3-tertiary-butoxycarbonyl-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine (2.1 g) was stirred under a hydrogen atmosphere (50 p.s.i. equivalent to 344.7 kPa) in ethanol (20 ml) and methanol (20 ml) solution containing 5% Pd/C (0.21 g) for 3 hours. The catalyst was removed by filtration and the solvent evaporated to give the title compound as an oil, yield 2.0 g.

reactant | 3-tertiary-butoxycarbonyl-7-nitro-1,2,4,5-tetrahydro-3H-3-benzazepine | 2.1 g | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)C=CC(=C2)[N+](=O)[O-] | C15H20N2O4
reactant | methanol | 20 ml | CO | CH4O
solvent | ethanol | 20 ml | C(C)O | C2H6O
catalyst | Pd/C | 0.21 g | [Pd] | Pd
product | 7-Amino-3-tertiary-butoxycarbonyl-1,2,4,5-tetrahydro-3H-3-benzazepine | NC1=CC2=C(CCN(CC2)C(=O)OC(C)(C)C)C=C1 | C15H22N2O2
